US05602277
To 2-amino-5-(methoxycarbonyl)benzaldehyde trimethylene mercaptal (Gassman, P. G.; Drews, H. R. J. Am. Chem. Soc. 1978, 100, 7600-7610) (5.0 g, 0.019 mol) in dichloromethane (90 mL) was added pyridine (4.51 mL, 0.055 mol). Methanesulfonyl chloride (4.31 mL, 0.055 mol) was then added over a five-minute period and the reaction mixture heated at reflux overnight. Thin-layer chromatography analysis (SiO2, EtOAc:hexane 1:1) showed the disappearance of the starting material along with the appearance of a new lower-running spot (Rf =0.56) indicating the reaction was complete. Upon cooling, the reaction was washed thoroughly with 10% acetic acid followed by water. The organic layer was dried (Na2SO4), filtered, and concentrated. The crude residue was placed on a SiO2 column and eluted with 1:1 EtOAc:hexane. Fractions containing the desired product were combined and concentrated to yield 5.0 g (77%) of 2-(methanesulfonylamino)-5-(methoxycarbonyl)benzaldehyde trimethylene mercaptal as a yellow solid. An analytical sample, mp 168°-168.5° C., was recrystallized from ethanol.

reactant | 2-amino-5-(methoxycarbonyl)benzaldehyde trimethylene mercaptal | 0.019 mol, 5.0 g | C1CCSC(C2=C(C=CC(=C2)C(=O)OC)N)S1 | C12H15NO2S2
reactant | pyridine | 0.055 mol, 4.51 mL | N1=CC=CC=C1 | C5H5N
reactant | Methanesulfonyl chloride | 0.055 mol, 4.31 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
product | 2-(methanesulfonylamino)-5-(methoxycarbonyl)benzaldehyde trimethylene mercaptal | 5.0 g, 77% | C1CCSC(C2=C(C=CC(=C2)C(=O)OC)NS(=O)(=O)C)S1 | C13H17NO4S3
